US09422281B2
N,N-Diisopropylethylamine (0.3 mL, 1.718 mmol) was added to a solution of (S)-1-(3-methyl-7-(4-(methylsulfonyl)phenyl)-2,3-dihydropyrido[4,3-b]pyrazin-4(1H)-yl)ethanone (0.004 g, 0.012 mmol) and furan-2-carbonyl chloride (0.2 mL, 2.029 mmol) in dichloromethane (1.0 mL), and the mixture stirred at room temperature for 2 h. The reaction mixture was partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-1-(1-(furan-2-carbonyl)-3-methyl-7-(4-(methylsulfonyl)phenyl)-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone (0.0038 g, 75%) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.13-1.22 (m, 3 H), 2.25 (br s, 1 H), 2.31 (s, 3 H), 3.02 (s, 3 H), 3.88 (br s, 1 H), 4.05-4.18 (m, 1 H), 5.03 (br s, 1 H), 6.55 (dd, J=3.52, 1.76 Hz, 1 H), 7.20-7.26 (m, 1 H), 7.45 (dd, J=1.76, 0.88 Hz, 1 H), 7.78 (s, 1 H), 7.89-8.02 (m, 4 H). MS (ESI, pos. ion) m/z 440.

reactant | N,N-Diisopropylethylamine | 1.718 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-(3-methyl-7-(4-(methylsulfonyl)phenyl)-2,3-dihydropyrido[4,3-b]pyrazin-4(1H)-yl)ethanone | 0.012 mmol, 0.004 g | C[C@@H]1N(C2=C(NC1)C=C(N=C2)C2=CC=C(C=C2)S(=O)(=O)C)C(C)=O | C17H19N3O3S
reactant | furan-2-carbonyl chloride | 2.029 mmol, 0.2 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (S)-1-(1-(furan-2-carbonyl)-3-methyl-7-(4-(methylsulfonyl)phenyl)-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone | 0.0038 g, 75% | O1C(=CC=C1)C(=O)N1C2=C(N([C@H](C1)C)C(C)=O)C=NC(=C2)C2=CC=C(C=C2)S(=O)(=O)C | C22H21N3O5S
